US06881733B1
1-benzyl-3-methyl-4-hydroxy-4-(5-fluorobenzofur-4-yl)piperidine
Beginning with 1.13 gm (5.26 mMol) 4-bromo-5-fluorobenzofuran and 1.18 gm (6.2 mMol) 1-benzyl-3-methyl-4-oxopiperidine, 1.21 gm (68%) of the desired compound were prepared essentially as described in EXAMPLE 19.

reactant | 4-bromo-5-fluorobenzofuran | 5.26 mMol, 1.13 gm | BrC1=C(C=CC2=C1C=CO2)F | C8H4BrFO
reactant | 1-benzyl-3-methyl-4-oxopiperidine | 6.2 mMol, 1.18 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
product | 1-benzyl-3-methyl-4-hydroxy-4-(5-fluorobenzofur-4-yl)piperidine | 1.21 gm, 68% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C=CC2=C1C=CO2)F)O)C | C21H22FNO2
